US07091228B2
4-{4′-[(6Chloro-1,3-benzothiazol-2-yl)amino]-1,1′-biphenyl-4-yl}-2-[2-(dimethylamino)ethyl]-4-oxobutanoic acid
This compound was prepared from methyl 4-(4′-amino-1,1′-biphenyl-4-yl)-2-[2-(dimethyl-amino)ethyl]-4-oxobutanoate (60 mg, 0.17 mmol) and 2,6-dichloro-1,3-benzothiazole (51.8 mg, 0.25 mmol)) in a similar manner to the method described for 4-[4′-(1,3-benzothiazol-2-ylamino)-1,1′-biphenyl-4-yl]-2,2-dimethyl-4-oxobutanoic acid, providing 14.1 mg (13%) of the desired product as the trifluoroacetate salt. 1H NMR (400 MHz, CD3OD) δ 8.10 (d, 2 H), 7.70–8.10 (m, 8 H), 7.30 (m, 1H), 3.60 (m, 1 H), 3.30–3.40 (m, 3 H), 3.10 (m, 1 H), 2.95 (s, 6 H), 2.20 (m, 1 H), 2.00 (m, 1 H). LC-MS m/z 508.1 (MH+), ret. time 2.66 min.

reactant | methyl 4-(4′-amino-1,1′-biphenyl-4-yl)-2-[2-(dimethyl-amino)ethyl]-4-oxobutanoate | 0.17 mmol, 60 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC(C(=O)OC)CCN(C)C)=O | C21H26N2O3
reactant | 2,6-dichloro-1,3-benzothiazole | 0.25 mmol, 51.8 mg | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
reactant | 4-[4′-(1,3-benzothiazol-2-ylamino)-1,1′-biphenyl-4-yl]-2,2-dimethyl-4-oxobutanoic acid | S1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(CC(C(=O)O)(C)C)=O | C25H22N2O3S
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 4-{4′-[(6Chloro-1,3-benzothiazol-2-yl)amino]-1,1′-biphenyl-4-yl}-2-[2-(dimethylamino)ethyl]-4-oxobutanoic acid | 14.1 mg, 13% | ClC1=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(CC(C(=O)O)CCN(C)C)=O)C=C1 | C27H26ClN3O3S
